* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=2.17897520597e-11
.param C2=3.84410402264e-10
.param Ce=1.45082632464e-10
.param Ch=1.73061826852e-09
.param Csh=1.27110347843e-10
.param L1=6.51137040247e-07
.param Lh=1.99181089026e-06
.param Lp=1.95897402554e-08
.param Rp=3.52825099242
.param Vsrc_amp=300.555458277
.param ne=1.11328905671e+15
.param nu_m=51520238.1379

* Sources
Vsrc src 0 SIN(0 300.555458277 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}
Lh electrode harmonic_mid {Lh}
Ch harmonic_mid 0 {Ch}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 3.52825099242
Lbulk nb ns 1.95897402554e-08
Csh ns n 1.27110347843e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
